US08067448B2
2-Chloro-4-((1R,2S)-1-(5-(3,4-dichlorophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile
To a solution of 3,4-dichloro-N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenyl-amino)-3-hydroxybutanoyl)benzohydrazide (1.35 g, 2.9 mmol) in anhydrous THF (100 mL) at room temperature was added 2-tert-butylamino-2-diethylamino-1,3-dimethyl perhydro-1,3,2-diazaphosphorine on polystyrene (2.2 mmol base/g) (4.0 g) followed by p-TSCl (621 mg, 3.2 mmol) and the mixture was stirred for 1 h. The mixture was filtered under suction and the residue washed with acetone (50 mL) followed by MeOH (50 mL). The filtrate was then concentrated and subjected to flash column chromatography [EtOAc-Hexanes (1:12)] to give the desired product (324 mg, 25%). 1H NMR (500 MHz, acetone-d6, δ in ppm) 8.07 (d, J=2.1 Hz, 1H), 7.81 (dd, J=2.1 Hz, 8.3 Hz, 1H), 7.59 (d, J=8.3 Hz, 1H), 7.43 (d, J=8.6 Hz, 1H), 6.65 (d, J=8.6 Hz, 1H), 5.22 (d, J=8.3 Hz, 1H), 4.75 (dd, J=2.8 Hz, 8.2 Hz, 1H), 4.66-4.59 (m, 1H), 2.77 (d, J=3.6 Hz, 1H), 2.35 (s, 3H), 1.43 (d, J=6.3 Hz, 3H).

reactant | 3,4-dichloro-N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenyl-amino)-3-hydroxybutanoyl)benzohydrazide | 2.9 mmol, 1.35 g | ClC=1C=C(C(=O)NNC([C@@H]([C@H](C)O)NC2=C(C(=C(C=C2)C#N)Cl)C)=O)C=CC1Cl | C19H17Cl3N4O3
reactant | 2-tert-butylamino-2-diethylamino-1,3-dimethyl perhydro-1,3,2-diazaphosphorine | C(C)(C)(C)NP1(N(CCCN1C)C)N(CC)CC | C13H33N4P
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-((1R,2S)-1-(5-(3,4-dichlorophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile | 324 mg, 25% | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@H](C)O)C=1OC(=NN1)C1=CC(=C(C=C1)Cl)Cl | C19H15Cl3N4O2
